US04323570
3.5 g 4,6-dichloro-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine are introduced into 30 ml 1% sodium methylate solution. After three hours, the precipitate is vacuum dried, washed with water, and recrystallized from nitromethane. 2.1 g of 4-chloro-6-methoxy-5-(2-imidazolin-2-yl)-aminopyrimidine (melting point 212° C.), is obtained.

reactant | 4,6-dichloro-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine | 3.5 g | ClC1=NC(=NC(=C1C=1N(CCN1)C(C)=O)Cl)N | C9H9Cl2N5O
reactant | sodium methylate | 30 ml | C[O-].[Na+]
product | 4-chloro-6-methoxy-5-(2-imidazolin-2-yl)-aminopyrimidine | 2.1 g | ClC1=NC(=NC(=C1C=1NCCN1)OC)N | C8H10ClN5O
